US05866583
A solution of 11.16 g of (R)-1-pyridin-2-yl-1,2,3,4-tetrahydro-isoquinoline (2S,3S)-2,3-dihydroxy-succinate (1:1) was dissolved in 100 ml of water and treated with 10 ml of a 25% aqueous ammonia solution. The mixture was extracted with 2×100 ml of diethyl ether. The combined organic phases were washed with 100 ml of water, dried over sodium sulfate and evaporated to dryness. The residue was distilled in a bulb-tube in order to give 6.35 g of (R)-1-pyridin-2-yl-1,2,3,4-tetrahydro-isoquinoline as a colorless oil, b.p. 135° C./0.15 mbar, which crystallized upon standing, m.p. 50°-52° C.

reactant | (R)-1-pyridin-2-yl-1,2,3,4-tetrahydro-isoquinoline (2S,3S)-2,3-dihydroxy-succinate | 11.16 g | O[C@H](C(=O)O)[C@@H](C(=O)O)O.N1=C(C=CC=C1)[C@@H]1NCCC2=CC=CC=C12
reactant | ammonia | N | H3N
solvent | water | 100 ml | O | H2O
product | (R)-1-pyridin-2-yl-1,2,3,4-tetrahydro-isoquinoline | 6.35 g | N1=C(C=CC=C1)[C@@H]1NCCC2=CC=CC=C12 | C14H14N2
